US07582629B2
1-(5-Amino-1-benzofuran-2-yl)ethanone
Iron powder (0.680 g, 12.19 mmol) was added in portions to a solution of 1-(5-nitro-1-benzofuran-2-yl)ethanone (0.500 g, 2.44 mmol) and NH4Cl (0.652 g, 12.19 mmol) in EtOH (15 mL) and water (4 mL) and the mixture was refluxed for 1 h. The mixture was filtered through Celite and washed out with DCM. The solvents were evaporated and the residue was dissolved in DCM. The organic layer was washed with water, dried through a phase separator and evaporated. The product was purified by silica gel column chromatography using a EtOAc/hexane/MeOH (49:49:2) as eluant, to give the title compound (0.232 g, 54%) as a yellow solid; 1H NMR (500 MHz, CD3OD): δ 7.50 (ds, 1H), 7.33 (d, 1H), 6.95-7.00 (m, 2H), 2.54 (s, 3H); Mass Spectrum: M+H+ 176.

reactant | 1-(5-nitro-1-benzofuran-2-yl)ethanone | 2.44 mmol, 0.500 g | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)C(C)=O)C1 | C10H7NO4
reactant | NH4Cl | 12.19 mmol, 0.652 g | [NH4+].[Cl-]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | water | 4 mL | O | H2O
catalyst | Iron | 12.19 mmol, 0.680 g | [Fe] | Fe
product | 1-(5-Amino-1-benzofuran-2-yl)ethanone | 0.232 g, 54% | NC=1C=CC2=C(C=C(O2)C(C)=O)C1 | C10H9NO2
